US06518423B1
1-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)imidazol-2-carboxylic acid
To a solution of 177 mg of 1-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)imidazol-2-carbaldehyde in a mixture of tetrahydrofuran (10 ml) with ethanol (10 ml) were added 0.5 ml of an aqueous solution of 0.24 g of silver nitrate and 1.5 N sodium hydroxide (4 ml) and the resulting mixture was stirred at room temperature for 15 hours. After filtering off the insoluble matters, the solution was concentrated under reduced pressure and the crystals of 1-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)imidazol-2-carboxylic acid thus precipitated were taken up by filtration. Next, the crystals were treated by the same method as the one of Example 9 to thereby give 55 mg of the title compound as orange crystals.

reactant | 1-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)imidazol-2-carbaldehyde | 177 mg | COCN1C2=C(SC3=C1C=C(C=C3)CN3C(=NC=C3)C=O)N=CC=N2 | C17H15N5O2S
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 1.5 N, 4 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | silver nitrate | 0.24 g | [N+](=O)([O-])[O-].[Ag+]
product | 1-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)imidazol-2-carboxylic acid | 55 mg | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CN3C(=NC=C3)C(=O)O | C15H11N5O2S
